* SPICE NETLIST
***************************************

.SUBCKT inv01 A Y GND VDD
** N=4 EP=4 IP=0 FDC=2
M0 Y A GND GND N L=1.8e-07 W=4.5e-07 AD=2.2275e-13 AS=2.9565e-13 $X=11500 $Y=26000 $D=1
M1 Y A VDD VDD P L=1.8e-07 W=9.9e-07 AD=4.9005e-13 AS=5.6295e-13 $X=11500 $Y=80000 $D=0
.ENDS
***************************************
.SUBCKT nor02 A1 Y A0 VDD GND
** N=6 EP=5 IP=0 FDC=4
M0 Y A1 GND GND N L=1.8e-07 W=4.5e-07 AD=2.43e-13 AS=2.9565e-13 $X=11500 $Y=26000 $D=1
M1 GND A0 Y GND N L=1.8e-07 W=4.5e-07 AD=2.9565e-13 AS=2.43e-13 $X=19500 $Y=26000 $D=1
M2 6 A1 Y VDD P L=1.8e-07 W=1.53e-06 AD=5.508e-13 AS=7.5735e-13 $X=11500 $Y=76000 $D=0
M3 VDD A0 6 VDD P L=1.8e-07 W=1.53e-06 AD=8.3025e-13 AS=5.508e-13 $X=17500 $Y=76000 $D=0
.ENDS
***************************************
.SUBCKT nand02 A1 A0 Y GND VDD
** N=6 EP=5 IP=0 FDC=4
M0 6 A1 GND GND N L=1.8e-07 W=9.9e-07 AD=3.564e-13 AS=5.6295e-13 $X=11500 $Y=19000 $D=1
M1 Y A0 6 GND N L=1.8e-07 W=9.9e-07 AD=4.9005e-13 AS=3.564e-13 $X=17500 $Y=19000 $D=1
M2 Y A1 VDD VDD P L=1.8e-07 W=1.35e-06 AD=7.29e-13 AS=6.9255e-13 $X=11500 $Y=86000 $D=0
M3 VDD A0 Y VDD P L=1.8e-07 W=1.35e-06 AD=6.9255e-13 AS=7.29e-13 $X=19500 $Y=86000 $D=0
.ENDS
***************************************
.SUBCKT aoi221 C0 B0 B1 Y A1 A0 GND VDD
** N=12 EP=8 IP=0 FDC=10
M0 Y C0 GND GND N L=1.8e-07 W=4.5e-07 AD=5.3055e-13 AS=2.9565e-13 $X=11500 $Y=32000 $D=1
M1 11 B0 Y GND N L=1.8e-07 W=9.9e-07 AD=3.564e-13 AS=5.3055e-13 $X=20000 $Y=26000 $D=1
M2 GND B1 11 GND N L=1.8e-07 W=9.9e-07 AD=7.4115e-13 AS=3.564e-13 $X=26000 $Y=26000 $D=1
M3 12 A1 GND GND N L=1.8e-07 W=1.17e-06 AD=4.212e-13 AS=7.4115e-13 $X=34500 $Y=24000 $D=1
M4 Y A0 12 GND N L=1.8e-07 W=1.17e-06 AD=5.5485e-13 AS=4.212e-13 $X=40500 $Y=24000 $D=1
M5 8 C0 Y VDD P L=1.8e-07 W=2.07e-06 AD=1.1178e-12 AS=1.02465e-12 $X=11500 $Y=73000 $D=0
M6 10 B0 8 VDD P L=1.8e-07 W=2.07e-06 AD=1.1178e-12 AS=1.1178e-12 $X=19500 $Y=73000 $D=0
M7 8 B1 10 VDD P L=1.8e-07 W=2.07e-06 AD=1.02465e-12 AS=1.1178e-12 $X=27500 $Y=73000 $D=0
M8 VDD A1 10 VDD P L=1.8e-07 W=2.07e-06 AD=1.1826e-12 AS=1.02465e-12 $X=43500 $Y=73000 $D=0
M9 10 A0 VDD VDD P L=1.8e-07 W=2.07e-06 AD=1.02465e-12 AS=1.1826e-12 $X=51500 $Y=73000 $D=0
.ENDS
***************************************
.SUBCKT aoi32 A2 A1 A0 Y B0 B1 VDD GND
** N=12 EP=8 IP=0 FDC=10
M0 10 A2 GND GND N L=1.8e-07 W=1.53e-06 AD=5.508e-13 AS=8.3025e-13 $X=11500 $Y=19500 $D=1
M1 11 A1 10 GND N L=1.8e-07 W=1.53e-06 AD=5.508e-13 AS=5.508e-13 $X=17500 $Y=19500 $D=1
M2 Y A0 11 GND N L=1.8e-07 W=1.53e-06 AD=8.4645e-13 AS=5.508e-13 $X=23500 $Y=19500 $D=1
M3 12 B0 Y GND N L=1.8e-07 W=9.9e-07 AD=3.564e-13 AS=8.4645e-13 $X=32000 $Y=25500 $D=1
M4 GND B1 12 GND N L=1.8e-07 W=9.9e-07 AD=5.6295e-13 AS=3.564e-13 $X=38000 $Y=25500 $D=1
M5 9 A2 VDD VDD P L=1.8e-07 W=1.53e-06 AD=8.262e-13 AS=8.3025e-13 $X=11500 $Y=81000 $D=0
M6 VDD A1 9 VDD P L=1.8e-07 W=1.53e-06 AD=8.91e-13 AS=8.262e-13 $X=19500 $Y=81000 $D=0
M7 9 A0 VDD VDD P L=1.8e-07 W=1.53e-06 AD=8.262e-13 AS=8.91e-13 $X=27500 $Y=81000 $D=0
M8 Y B0 9 VDD P L=1.8e-07 W=1.53e-06 AD=8.262e-13 AS=8.262e-13 $X=35500 $Y=81000 $D=0
M9 9 B1 Y VDD P L=1.8e-07 W=1.53e-06 AD=7.5735e-13 AS=8.262e-13 $X=43500 $Y=81000 $D=0
.ENDS
***************************************
.SUBCKT nand03 A0 Y A1 A2 VDD GND
** N=8 EP=6 IP=0 FDC=6
M0 7 A0 Y GND N L=1.8e-07 W=1.53e-06 AD=5.508e-13 AS=7.5735e-13 $X=13500 $Y=24500 $D=1
M1 8 A1 7 GND N L=1.8e-07 W=1.53e-06 AD=5.508e-13 AS=5.508e-13 $X=19500 $Y=24500 $D=1
M2 GND A2 8 GND N L=1.8e-07 W=1.53e-06 AD=8.3025e-13 AS=5.508e-13 $X=25500 $Y=24500 $D=1
M3 Y A0 VDD VDD P L=1.8e-07 W=1.62e-06 AD=8.748e-13 AS=8.6265e-13 $X=11500 $Y=74000 $D=0
M4 VDD A1 Y VDD P L=1.8e-07 W=1.62e-06 AD=9.396e-13 AS=8.748e-13 $X=19500 $Y=74000 $D=0
M5 Y A2 VDD VDD P L=1.8e-07 W=1.62e-06 AD=7.8975e-13 AS=9.396e-13 $X=27500 $Y=74000 $D=0
.ENDS
***************************************
.SUBCKT aoi21 A1 A0 B0 Y VDD GND
** N=8 EP=6 IP=0 FDC=6
M0 8 A1 GND GND N L=1.8e-07 W=9.9e-07 AD=3.564e-13 AS=5.6295e-13 $X=11500 $Y=26000 $D=1
M1 Y A0 8 GND N L=1.8e-07 W=9.9e-07 AD=5.3055e-13 AS=3.564e-13 $X=17500 $Y=26000 $D=1
M2 GND B0 Y GND N L=1.8e-07 W=4.5e-07 AD=2.9565e-13 AS=5.3055e-13 $X=26000 $Y=32000 $D=1
M3 VDD A1 6 VDD P L=1.8e-07 W=1.53e-06 AD=8.91e-13 AS=7.5735e-13 $X=11500 $Y=76000 $D=0
M4 6 A0 VDD VDD P L=1.8e-07 W=1.53e-06 AD=8.262e-13 AS=8.91e-13 $X=19500 $Y=76000 $D=0
M5 Y B0 6 VDD P L=1.8e-07 W=1.53e-06 AD=7.5735e-13 AS=8.262e-13 $X=27500 $Y=76000 $D=0
.ENDS
***************************************
.SUBCKT xnor2 A0 A1 Y GND VDD
** N=9 EP=5 IP=0 FDC=10
M0 8 A0 4 GND N L=1.8e-07 W=9.9e-07 AD=3.564e-13 AS=4.9005e-13 $X=11500 $Y=23000 $D=1
M1 GND A1 8 GND N L=1.8e-07 W=9.9e-07 AD=5.6295e-13 AS=3.564e-13 $X=17500 $Y=23000 $D=1
M2 Y A1 5 GND N L=1.8e-07 W=9.9e-07 AD=5.346e-13 AS=4.9005e-13 $X=33500 $Y=23000 $D=1
M3 5 A0 Y GND N L=1.8e-07 W=9.9e-07 AD=5.346e-13 AS=5.346e-13 $X=41500 $Y=23000 $D=1
M4 GND 4 5 GND N L=1.8e-07 W=9.9e-07 AD=5.6295e-13 AS=5.346e-13 $X=49500 $Y=23000 $D=1
M5 4 A0 VDD VDD P L=1.8e-07 W=1.53e-06 AD=8.262e-13 AS=8.3025e-13 $X=18500 $Y=65500 $D=0
M6 VDD A1 4 VDD P L=1.8e-07 W=1.53e-06 AD=1.6362e-12 AS=8.262e-13 $X=26500 $Y=65500 $D=0
M7 9 A0 VDD VDD P L=1.8e-07 W=2.88e-06 AD=1.0368e-12 AS=1.6362e-12 $X=35000 $Y=65500 $D=0
M8 Y A1 9 VDD P L=1.8e-07 W=2.88e-06 AD=1.52685e-12 AS=1.0368e-12 $X=41000 $Y=65500 $D=0
M9 VDD 4 Y VDD P L=1.8e-07 W=1.53e-06 AD=8.3025e-13 AS=1.52685e-12 $X=49500 $Y=65500 $D=0
.ENDS
***************************************
.SUBCKT oai21 B0 A1 Y A0 GND VDD
** N=8 EP=6 IP=0 FDC=6
M0 6 B0 GND GND N L=1.8e-07 W=9.9e-07 AD=5.346e-13 AS=5.6295e-13 $X=11500 $Y=25000 $D=1
M1 Y A1 6 GND N L=1.8e-07 W=9.9e-07 AD=5.346e-13 AS=5.346e-13 $X=19500 $Y=25000 $D=1
M2 6 A0 Y GND N L=1.8e-07 W=9.9e-07 AD=4.9005e-13 AS=5.346e-13 $X=27500 $Y=25000 $D=1
M3 Y B0 VDD VDD P L=1.8e-07 W=1.35e-06 AD=1.41345e-12 AS=6.9255e-13 $X=13000 $Y=68000 $D=0
M4 8 A1 Y VDD P L=1.8e-07 W=2.61e-06 AD=9.396e-13 AS=1.41345e-12 $X=21500 $Y=68000 $D=0
M5 VDD A0 8 VDD P L=1.8e-07 W=2.61e-06 AD=1.36485e-12 AS=9.396e-13 $X=27500 $Y=68000 $D=0
.ENDS
***************************************
.SUBCKT nor03 Y A2 A1 A0 GND VDD
** N=8 EP=6 IP=0 FDC=6
M0 Y A2 GND GND N L=1.8e-07 W=5.4e-07 AD=2.916e-13 AS=3.2805e-13 $X=11500 $Y=25000 $D=1
M1 GND A1 Y GND N L=1.8e-07 W=5.4e-07 AD=3.564e-13 AS=2.916e-13 $X=19500 $Y=25000 $D=1
M2 Y A0 GND GND N L=1.8e-07 W=5.4e-07 AD=2.5515e-13 AS=3.564e-13 $X=27500 $Y=25000 $D=1
M3 7 A2 Y VDD P L=1.8e-07 W=2.16e-06 AD=7.776e-13 AS=1.05705e-12 $X=15500 $Y=73000 $D=0
M4 8 A1 7 VDD P L=1.8e-07 W=2.16e-06 AD=7.776e-13 AS=7.776e-13 $X=21500 $Y=73000 $D=0
M5 VDD A0 8 VDD P L=1.8e-07 W=2.16e-06 AD=1.12995e-12 AS=7.776e-13 $X=27500 $Y=73000 $D=0
.ENDS
***************************************
.SUBCKT aoi33 A2 A1 A0 B0 B1 B2 Y VDD GND
** N=14 EP=9 IP=0 FDC=12
M0 11 A2 GND GND N L=1.8e-07 W=1.53e-06 AD=5.508e-13 AS=8.3025e-13 $X=11500 $Y=24000 $D=1
M1 12 A1 11 GND N L=1.8e-07 W=1.53e-06 AD=5.508e-13 AS=5.508e-13 $X=17500 $Y=24000 $D=1
M2 Y A0 12 GND N L=1.8e-07 W=1.53e-06 AD=8.262e-13 AS=5.508e-13 $X=23500 $Y=24000 $D=1
M3 13 B0 Y GND N L=1.8e-07 W=1.53e-06 AD=5.508e-13 AS=8.262e-13 $X=31500 $Y=24000 $D=1
M4 14 B1 13 GND N L=1.8e-07 W=1.53e-06 AD=5.508e-13 AS=5.508e-13 $X=37500 $Y=24000 $D=1
M5 GND B2 14 GND N L=1.8e-07 W=1.53e-06 AD=8.3025e-13 AS=5.508e-13 $X=43500 $Y=24000 $D=1
M6 9 A2 VDD VDD P L=1.8e-07 W=1.8e-06 AD=9.72e-13 AS=9.2745e-13 $X=11500 $Y=76000 $D=0
M7 VDD A1 9 VDD P L=1.8e-07 W=1.8e-06 AD=1.0368e-12 AS=9.72e-13 $X=19500 $Y=76000 $D=0
M8 9 A0 VDD VDD P L=1.8e-07 W=1.8e-06 AD=9.234e-13 AS=1.0368e-12 $X=27500 $Y=76000 $D=0
M9 Y B0 9 VDD P L=1.8e-07 W=1.53e-06 AD=8.262e-13 AS=9.234e-13 $X=35500 $Y=76000 $D=0
M10 9 B1 Y VDD P L=1.8e-07 W=1.53e-06 AD=8.262e-13 AS=8.262e-13 $X=43500 $Y=76000 $D=0
M11 Y B2 9 VDD P L=1.8e-07 W=1.53e-06 AD=7.5735e-13 AS=8.262e-13 $X=51500 $Y=76000 $D=0
.ENDS
***************************************
.SUBCKT oai22 A0 A1 Y B1 B0 GND VDD
** N=10 EP=7 IP=0 FDC=8
M0 Y A0 8 GND N L=1.8e-07 W=9.9e-07 AD=5.346e-13 AS=4.9005e-13 $X=11500 $Y=22500 $D=1
M1 8 A1 Y GND N L=1.8e-07 W=9.9e-07 AD=5.346e-13 AS=5.346e-13 $X=19500 $Y=22500 $D=1
M2 GND B1 8 GND N L=1.8e-07 W=9.9e-07 AD=5.994e-13 AS=5.346e-13 $X=27500 $Y=22500 $D=1
M3 8 B0 GND GND N L=1.8e-07 W=9.9e-07 AD=4.9005e-13 AS=5.994e-13 $X=35500 $Y=22500 $D=1
M4 9 A0 VDD VDD P L=1.8e-07 W=2.61e-06 AD=9.396e-13 AS=1.36485e-12 $X=13500 $Y=66000 $D=0
M5 Y A1 9 VDD P L=1.8e-07 W=2.61e-06 AD=1.4094e-12 AS=9.396e-13 $X=19500 $Y=66000 $D=0
M6 10 B1 Y VDD P L=1.8e-07 W=2.61e-06 AD=9.396e-13 AS=1.4094e-12 $X=27500 $Y=66000 $D=0
M7 VDD B0 10 VDD P L=1.8e-07 W=2.61e-06 AD=1.36485e-12 AS=9.396e-13 $X=33500 $Y=66000 $D=0
.ENDS
***************************************
.SUBCKT ChipMultiplier
** N=99 EP=0 IP=415 FDC=404
M0 95 10 47 47 N L=1.8e-07 W=9.9e-07 AD=3.564e-13 AS=5.6295e-13 $X=410000 $Y=714000 $D=1
M1 53 48 95 47 N L=1.8e-07 W=9.9e-07 AD=5.346e-13 AS=3.564e-13 $X=416000 $Y=714000 $D=1
M2 96 33 53 47 N L=1.8e-07 W=9.9e-07 AD=3.564e-13 AS=5.346e-13 $X=424000 $Y=714000 $D=1
M3 47 26 96 47 N L=1.8e-07 W=9.9e-07 AD=5.6295e-13 AS=3.564e-13 $X=430000 $Y=714000 $D=1
M4 47 24 94 47 N L=1.8e-07 W=9.9e-07 AD=5.994e-13 AS=4.9005e-13 $X=866000 $Y=446000 $D=1
M5 94 77 47 47 N L=1.8e-07 W=9.9e-07 AD=5.346e-13 AS=5.994e-13 $X=874000 $Y=446000 $D=1
M6 44 78 94 47 N L=1.8e-07 W=9.9e-07 AD=5.346e-13 AS=5.346e-13 $X=882000 $Y=446000 $D=1
M7 94 75 44 47 N L=1.8e-07 W=9.9e-07 AD=5.346e-13 AS=5.346e-13 $X=890000 $Y=446000 $D=1
M8 44 86 94 47 N L=1.8e-07 W=9.9e-07 AD=4.9005e-13 AS=5.346e-13 $X=898000 $Y=446000 $D=1
M9 91 10 93 91 P L=1.8e-07 W=1.53e-06 AD=8.91e-13 AS=7.5735e-13 $X=408000 $Y=760000 $D=0
M10 93 48 91 91 P L=1.8e-07 W=1.53e-06 AD=8.262e-13 AS=8.91e-13 $X=416000 $Y=760000 $D=0
M11 53 33 93 91 P L=1.8e-07 W=1.53e-06 AD=8.262e-13 AS=8.262e-13 $X=424000 $Y=760000 $D=0
M12 93 26 53 91 P L=1.8e-07 W=1.53e-06 AD=7.5735e-13 AS=8.262e-13 $X=432000 $Y=760000 $D=0
M13 97 24 91 91 P L=1.8e-07 W=2.61e-06 AD=9.396e-13 AS=1.36485e-12 $X=867500 $Y=488000 $D=0
M14 44 77 97 91 P L=1.8e-07 W=2.61e-06 AD=2.12625e-12 AS=9.396e-13 $X=873500 $Y=488000 $D=0
M15 98 78 44 91 P L=1.8e-07 W=3.87e-06 AD=1.3932e-12 AS=2.12625e-12 $X=882000 $Y=488000 $D=0
M16 99 75 98 91 P L=1.8e-07 W=3.87e-06 AD=1.3932e-12 AS=1.3932e-12 $X=888000 $Y=488000 $D=0
M17 91 86 99 91 P L=1.8e-07 W=3.87e-06 AD=1.96425e-12 AS=1.3932e-12 $X=894000 $Y=488000 $D=0
X18 12 48 47 91 inv01 $T=291000 952000 0 0 $X=291000 $Y=952000
X19 21 55 47 91 inv01 $T=306000 160000 0 0 $X=306000 $Y=160000
X20 55 25 47 91 inv01 $T=419000 160000 1 180 $X=394000 $Y=160000
X21 36 51 47 91 inv01 $T=440000 952000 1 180 $X=415000 $Y=952000
X22 55 10 47 91 inv01 $T=419000 160000 0 0 $X=419000 $Y=160000
X23 36 5 47 91 inv01 $T=440000 952000 0 0 $X=440000 $Y=952000
X24 28 23 47 91 inv01 $T=469000 160000 1 180 $X=444000 $Y=160000
X25 25 4 47 91 inv01 $T=469000 160000 0 0 $X=469000 $Y=160000
X26 23 11 47 91 inv01 $T=547000 952000 0 0 $X=547000 $Y=952000
X27 23 62 47 91 inv01 $T=566500 424000 0 0 $X=566500 $Y=424000
X28 16 32 47 91 inv01 $T=625500 688000 0 0 $X=625500 $Y=688000
X29 38 73 47 91 inv01 $T=752000 952000 0 0 $X=752000 $Y=952000
X30 80 75 47 91 inv01 $T=806000 160000 0 0 $X=806000 $Y=160000
X31 40 77 47 91 inv01 $T=829500 424000 0 0 $X=829500 $Y=424000
X32 9 79 47 91 inv01 $T=930000 160000 1 180 $X=905000 $Y=160000
X33 9 14 47 91 inv01 $T=946500 688000 1 180 $X=921500 $Y=688000
X34 46 9 47 91 inv01 $T=955000 160000 1 180 $X=930000 $Y=160000
X35 87 84 47 91 inv01 $T=980000 160000 1 180 $X=955000 $Y=160000
X36 87 17 47 91 inv01 $T=1005000 160000 1 180 $X=980000 $Y=160000
X37 19 87 47 91 inv01 $T=1030000 160000 1 180 $X=1005000 $Y=160000
X38 20 36 47 91 inv01 $T=1045000 952000 1 180 $X=1020000 $Y=952000
X39 19 24 47 91 inv01 $T=1059500 424000 1 180 $X=1034500 $Y=424000
X40 25 26 48 91 47 nor02 $T=415000 952000 1 180 $X=382000 $Y=952000
X41 29 3 6 91 47 nor02 $T=465000 952000 0 0 $X=465000 $Y=952000
X42 14 64 4 91 47 nor02 $T=650000 160000 1 180 $X=617000 $Y=160000
X43 36 66 12 91 47 nor02 $T=670000 952000 1 180 $X=637000 $Y=952000
X44 5 71 4 91 47 nor02 $T=690500 424000 1 180 $X=657500 $Y=424000
X45 36 70 10 91 47 nor02 $T=732000 160000 0 0 $X=732000 $Y=160000
X46 7 45 12 91 47 nor02 $T=968500 424000 0 0 $X=968500 $Y=424000
X47 17 92 14 91 47 nor02 $T=979500 688000 0 0 $X=979500 $Y=688000
X48 90 18 89 91 47 nor02 $T=1045500 688000 1 180 $X=1012500 $Y=688000
X49 48 23 88 47 91 nand02 $T=316000 952000 0 0 $X=316000 $Y=952000
X50 51 23 22 47 91 nand02 $T=382000 952000 1 180 $X=349000 $Y=952000
X51 55 12 30 47 91 nand02 $T=494000 160000 0 0 $X=494000 $Y=160000
X52 5 4 59 47 91 nand02 $T=551500 688000 0 0 $X=551500 $Y=688000
X53 17 62 65 47 91 nand02 $T=591500 424000 0 0 $X=591500 $Y=424000
X54 32 65 34 47 91 nand02 $T=624500 424000 0 0 $X=624500 $Y=424000
X55 69 37 72 47 91 nand02 $T=732500 688000 0 0 $X=732500 $Y=688000
X56 54 40 78 47 91 nand02 $T=796500 424000 0 0 $X=796500 $Y=424000
X57 36 10 42 47 91 nand02 $T=831000 160000 0 0 $X=831000 $Y=160000
X58 76 42 81 47 91 nand02 $T=847500 688000 0 0 $X=847500 $Y=688000
X59 17 14 7 47 91 nand02 $T=979500 688000 1 180 $X=946500 $Y=688000
X60 88 92 85 47 91 nand02 $T=1020000 952000 1 180 $X=987000 $Y=952000
X61 14 12 86 47 91 nand02 $T=1034500 424000 1 180 $X=1001500 $Y=424000
X62 38 71 11 37 24 70 47 91 aoi221 $T=690500 424000 0 0 $X=690500 $Y=424000
X63 43 85 83 15 82 81 47 91 aoi221 $T=987000 952000 1 180 $X=922000 $Y=952000
X64 27 24 16 29 54 57 91 47 aoi32 $T=445500 688000 0 0 $X=445500 $Y=688000
X65 40 80 45 90 7 44 91 47 aoi32 $T=911500 424000 0 0 $X=911500 $Y=424000
X66 9 33 24 23 91 47 nand03 $T=290500 688000 0 0 $X=290500 $Y=688000
X67 52 38 50 49 91 47 nand03 $T=443500 424000 1 180 $X=402500 $Y=424000
X68 4 54 5 24 91 47 nand03 $T=484500 424000 0 0 $X=484500 $Y=424000
X69 14 63 17 16 91 47 nand03 $T=625500 688000 1 180 $X=584500 $Y=688000
X70 4 76 5 16 91 47 nand03 $T=650500 688000 0 0 $X=650500 $Y=688000
X71 10 80 36 32 91 47 nand03 $T=732000 160000 1 180 $X=691000 $Y=160000
X72 10 69 36 17 91 47 nand03 $T=732500 688000 1 180 $X=691500 $Y=688000
X73 37 43 35 33 91 47 nand03 $T=752000 952000 1 180 $X=711000 $Y=952000
X74 74 6 35 73 91 47 nand03 $T=818000 952000 1 180 $X=777000 $Y=952000
X75 16 74 11 10 91 47 nand03 $T=806500 688000 0 0 $X=806500 $Y=688000
X76 59 82 16 7 91 47 nand03 $T=880500 688000 0 0 $X=880500 $Y=688000
X77 5 4 53 27 91 47 aoi21 $T=484500 424000 1 180 $X=443500 $Y=424000
X78 7 23 5 58 91 47 aoi21 $T=566500 424000 1 180 $X=525500 $Y=424000
X79 39 68 6 8 91 47 aoi21 $T=711000 952000 1 180 $X=670000 $Y=952000
X80 11 71 38 40 91 47 aoi21 $T=755500 424000 0 0 $X=755500 $Y=424000
X81 84 79 42 41 91 47 aoi21 $T=905000 160000 1 180 $X=864000 $Y=160000
X82 1 2 49 47 91 xnor2 $T=276500 424000 0 0 $X=276500 $Y=424000
X83 2 12 50 47 91 xnor2 $T=331000 160000 0 0 $X=331000 $Y=160000
X84 1 16 52 47 91 xnor2 $T=339500 424000 0 0 $X=339500 $Y=424000
X85 12 11 83 47 91 xnor2 $T=859000 952000 0 0 $X=859000 $Y=952000
X86 32 60 31 64 47 91 oai21 $T=576000 160000 0 0 $X=576000 $Y=160000
X87 12 75 39 41 47 91 oai21 $T=765000 160000 0 0 $X=765000 $Y=160000
X88 35 11 89 59 47 91 oai21 $T=818000 952000 0 0 $X=818000 $Y=952000
X89 67 11 17 14 47 91 nor03 $T=650000 160000 0 0 $X=650000 $Y=160000
X90 13 72 89 9 47 91 nor03 $T=765500 688000 0 0 $X=765500 $Y=688000
X91 24 9 25 22 33 26 56 91 47 aoi33 $T=331500 688000 0 0 $X=331500 $Y=688000
X92 63 25 66 61 33 34 68 91 47 aoi33 $T=572000 952000 0 0 $X=572000 $Y=952000
X93 51 30 61 59 12 47 91 oai22 $T=498000 952000 0 0 $X=498000 $Y=952000
X94 58 31 57 56 32 47 91 oai22 $T=551500 688000 1 180 $X=502500 $Y=688000
X95 67 30 60 55 12 47 91 oai22 $T=576000 160000 1 180 $X=527000 $Y=160000
.ENDS
***************************************
